US08389511B2
tert-Butyl (3R)-3-[{[5-chloro-1-(4-methoxybutyl)-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate
To tert-butyl (3R)-3-(isopropyl{[1-(4-methoxybutyl)-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-6-yl]carbonyl}amino)piperidine-1-carboxylate (220 mg) were added NCS (86 mg) and DMF (5 ml), and the mixture was stirred at 65° C. for one hour. After the reaction was complete, water was added to the reaction solution, and the mixture was extracted with ethyl acetate solution. This ethyl acetate was washed with water and an aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1) to give the title compound (200 mg) as a colorless liquid.

reactant | tert-butyl (3R)-3-(isopropyl{[1-(4-methoxybutyl)-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-6-yl]carbonyl}amino)piperidine-1-carboxylate | 220 mg | C(C)(C)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(=O)C1=CC=C2C(C(N(C2=C1)CCCCOC)=O)(C)C | C29H45N3O5
reactant | NCS | 86 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-Butyl (3R)-3-[{[5-chloro-1-(4-methoxybutyl)-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 200 mg | ClC=1C=C2C(C(N(C2=CC1C(=O)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(C)C)CCCCOC)=O)(C)C | C29H44ClN3O5
